US07635715B2
Step I: Preparation of t-butyl-N-((5-chloro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate
A mixture of ethyl 5-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-carboxylate (70 mg, 208 μmol) and tert-butyl 2-aminoacetate hydrochloride (52 mg, 312 μmol) in 1 mL dioxane was treated with N-ethyl-N-isopropylpropan-2-amine (81 mg, 624 μmol). The mixture was warmed to 95° C. and stirred for 2.5 hours, cooled to room temperature, and then diluted with 20 mL H2O and 100 mL EtOAc. The organic layers were separated, washed with 20 mL 1N HCl×2, water 20 mL, saturated NaCl 20 mL, dried over anhydrous sodium sulfate, and concentrated. The concentrate was purified by column chromatography (10-20% EtOAc/hexane) to give 51 mg pale yellow solid. MS m/e: (M+H)+ 366.

reactant | ethyl 5-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 208 μmol, 70 mg | ClC1=C2C(C(C(C3(CCOCC3)C2=CC=C1)=O)C(=O)OCC)O | C17H19ClO5
reactant | tert-butyl 2-aminoacetate hydrochloride | 312 μmol, 52 mg | Cl.NCC(=O)OC(C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 624 μmol, 81 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 20 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | t-butyl-N-((5-chloro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 51 mg | C(C)(C)(C)OC(CNC(=O)C1=C(C2(CCOCC2)C2=CC=CC(=C2C1=O)Cl)O)=O | C21H24ClNO6
